US04894458
2,4-Difluoro-3-methyl-5-nitroaniline
To a suspension of iron powder (16.8 g, 100 mesh) in water (140 ml), with vigorous stirring at 50° C., was slowly added concentrated hydrochloric acid (3 ml). After hot ethanol (90 ml) was mixed, 2,6-difluoro-3,5-dinitrotoluene (21.8 g) was added portionwise to the suspension at 55° to 56° C. during 5 minutes. After stirring for 1.5 hours at 55° to 60° C., to the reacting mixture was added sodium hydrogensulfate (3.48 g) and stirred for further 30 minutes at the same temperature. To the reacting mixture was added benzene (100 ml), stirred for 10 minutes and insoluble materials were filtered off, and then the materials were washed with benzene. To the filtrate and washings were added water and active carbon, stirred sufficiently and filtered off. The organic layer was separated and the water layer was further extracted with benzene. The organic layer was combined, washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (11.82 g) as pale brown crystals.

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | ethanol | 90 ml | C(C)O | C2H6O
reactant | 2,6-difluoro-3,5-dinitrotoluene | 21.8 g | FC1=C(C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])F)C | C7H4F2N2O4
reactant | sodium hydrogensulfate | 3.48 g | S(=O)(=O)(O)[O-].[Na+]
solvent | water | 140 ml | O | H2O
catalyst | iron | 16.8 g | [Fe] | Fe
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2,4-Difluoro-3-methyl-5-nitroaniline | 11.82 g | FC1=C(N)C=C(C(=C1C)F)[N+](=O)[O-] | C7H6F2N2O2
